US07371744B2
Compound 11 3-(N,N-dibutylamino)-7-(N,N-dipropylamino)-phenothiazin-5-ium iodide (19%)
This compound was obtained following isolation of 3-(N,N-dipropylamino)-phenothiazin-5-ium triiodide and subsequent treatment with dibutylamine. Precipitation from dichloromethane by addition of diethyl ether yielded purple lustrous crystals. Mass spectrometry: C26H38N3OS requires m/z=424; found m/z=424 (I− not detected by mass spectrometry).

reactant | 3-(N,N-dipropylamino)-phenothiazin-5-ium triiodide | [I-].[I-].[I-].C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
product | 3-(N,N-dibutylamino)-7-(N,N-dipropylamino)-phenothiazin-5-ium iodide | [I-].C(CCC)N(CCCC)C=1C=CC2=NC3=CC=C(C=C3[S+]=C2C1)N(CCC)CCC | InChI=1S/C26H38N3S.HI/c1-5-9-17-29(18-10-6-2)22-12-14-24-26(20-22)30-25-19-21(11-13-23(25)27-24)28(15-7-3)16-8-4;/h11-14,19-20H,5-10,15-18H2,1-4H3;1H/q+1;/p-1
